US07662828B2
2-Amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 501 mg (2.0 mmol) was added at 0° C. to a solution of 4-ethylbenzoic acid chloride 296 μl (2.0 mmol) in pyridine (25 ml) and stirring was performed for 2 h at 0° C. and then overnight at RT under nitrogen as inert gas. After the addition of aqueous 1 M NaOH (40 ml) and stirring for 20 minutes, CH2Cl2 (50 ml) was added and the aqueous phase extracted with CH2Cl2 (3×20 ml). The combined organic phases were dried over Na2SO4. After filtration and removal of the solvent, purification was performed by means of column chromatography and the product 2-(4-ethyl-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 640 mg (1.67 mmol, 84% of theoretical) was obtained.

reactant | 2-Amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 2.0 mmol, 501 mg | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)N)CC1 | C12H18N4O2
reactant | 4-ethylbenzoic acid chloride | 2.0 mmol, 296 μl | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
reactant | NaOH | 1 M, 40 ml | [OH-].[Na+]
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-ethyl-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 1.67 mmol, 640 mg, 84% | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)NC(C2=CC=C(C=C2)CC)=O)CC1 | C21H26N4O3
